US05753652
At 0°, 6 ml (42.8 mmol) of trifluoroacetic anhydride are added dropwise to a solution of 8.16 g (38.9 mmol) of (L)-valine-tert-butyl ester and 17.3 ml (124.5 mmol) of triethylamine in 100 ml of methylene chloride and the reaction mixture is stirred overnight at RT. After washing with 10% citric acid and saturated sodium chloride solution, the organic phase is concentrated by evaporation and yields N-trifluoroacetyl-(L)-valine tert-butyl ester in the form of a yellow oil, which is dissolved in 40 ml of a (1:1) mixture of methylene chloride and TFA and stirred for 5 h at RT. Concentration by evaporation of the reaction solution and digestion of the residue with hexane yields the title compound in the form of a white solid. 1H-NMR (200 MHz, CD3OD): 4.32 (d, J=6 Hz, 1H), 2.23 (m, 1H), 0.98 (d, J=7 Hz, 3H), 0.96 (d, J=7 Hz, 3H).

reactant | trifluoroacetic anhydride | 42.8 mmol, 6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | (L)-valine-tert-butyl ester | 38.9 mmol, 8.16 g | C(C)(C)(C)OC([C@@H](N)C(C)C)=O | C9H19NO2
reactant | triethylamine | 124.5 mmol, 17.3 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-trifluoroacetyl-(L)-valine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC(C(F)(F)F)=O)C(C)C)=O | C11H18F3NO3
